US07012079B1
Stage 4a: 1-(2-aminophenyl)-2-phenyl-1-ethanone
A solution of 2-aminobenzonitrile (4.25 g, 36 mmol) in anhydrous diethyl ether (40 ml) at 0° C. is treated under argon with benzylmagnesium chloride (2M in tetrahydrofuran; 50 ml; 100 mmol). The reaction medium is maintained under agitation for 1 hour at ambient temperature, then hydrolyzed at 0° C. by adding hydrochloric acid at 10%, agitated for 1 hour, and neutralized with sodium hydroxide. The resulting mixture is extracted with ethyl acetate. The combined extracts are washed with water and with a saturated solution of sodium chloride, then dried over magnesium sulphate and concentrated to produce 3.5 g of the desired product, in the form of a white solid (m.p.: 100–101° C.).

reactant | 2-aminobenzonitrile | 36 mmol, 4.25 g | NC1=C(C#N)C=CC=C1 | C7H6N2
reactant | benzylmagnesium chloride | 100 mmol, 2M, 50 ml | C(C1=CC=CC=C1)[Mg]Cl
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
product | 1-(2-aminophenyl)-2-phenyl-1-ethanone | 3.5 g | NC1=C(C=CC=C1)C(CC1=CC=CC=C1)=O | C14H13NO
